* C:\Users\Sebastian\Documents\Github\DCSource_DIY\Electronic-design\Stage-by-stage-design\00_DC-DC_Converter\LTSpice-simulation\Sim_1.asc
* Generated by LTspice 24.1.10 for Windows.
V1 N001 0 10
X§U1 NC_01 NC_02 NC_03 NC_04 0 NC_05 N001 NC_06 UCC28C43_STEADY2 ;§pnba COMP)FB)CS)RTCT)GND)OUT)VDD)VREF
.tran 10m
.include UCC28C43_LTspice_Compatible_v2.lib
.lib C:\Users\Sebastian\Documents\Github\DCSource_DIY\Electronic-design\Stage-by-stage-design\00_DC-DC_Converter\LTSpice-simulation\UCC28C43_LTspice_Compatible_v2.lib
.backanno
.end
